US08222246B2
e) 6-(5-Formyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinonitrile
A mixture of 6-[3-pyridin-2-yl-5-((E)-styryl)-isoxazol-4-ylmethoxy]-nicotinonitrile (0.57 g, 2 mmol), osmium(VIII) oxide solution (0.38 mL of a 2.5% solution in tert-butanol, 0.04 mmol), sodium metaperiodate (1.29 g, 6 mmol), benzyltriethylammonium chloride (0.14 g, 0.6 mmol) in dioxane (13 mL) and water (4.5 mL) was heated in a microwave for 45 min at 120° C. Extractive workup (ethyl acetate/water) was followed by drying of the organic phase over sodium sulfate and filtering. The solvent was evaporated and the residue was triturated with diisopropylether to afford the title compound (0.23 g, 51%) as a white solid. MS: m/e=307.2 [M+H]+.

reactant | 6-[3-pyridin-2-yl-5-((E)-styryl)-isoxazol-4-ylmethoxy]-nicotinonitrile | 2 mmol, 0.57 g | N1=C(C=CC=C1)C1=NOC(=C1COC1=NC=C(C#N)C=C1)\C=C\C1=CC=CC=C1 | C23H16N4O2
reactant | sodium metaperiodate | 6 mmol, 1.29 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
catalyst | benzyltriethylammonium chloride | 0.6 mmol, 0.14 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dioxane | 13 mL | O1CCOCC1 | C4H8O2
solvent | water | 4.5 mL | O | H2O
catalyst | osmium(VIII) oxide | [Os](=O)(=O)(=O)=O
product | 6-(5-Formyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinonitrile | 0.23 g, 51% | C(=O)C1=C(C(=NO1)C1=NC=CC=C1)COC1=NC=C(C#N)C=C1 | C16H10N4O3
